US06620438B2
18.9 g of 1-benzyl-4-methylaminopiperidine as the oil prepared according to a) are taken up in 250 ml of methanol and combined with 8.3 g of cyclopropanecarboxaldehyde and 11.3 g of sodium cyanoborohydride. The mixture is stirred for 5 hours at 40-50° C., then for about another 16 hours at ambient temperature. It is then acidified with 2 N hydrochloric acid, evaporated to dryness in vacuo and the residue is taken up in water. It is washed with ether, made alkaline with concentrated sodium hydroxide solution and extracted with ether/ethyl acetate. The organic extract is dried over sodium sulphate and freed from the solvents in vacuo. 22.7 g 1-benzyl-4-(cyclopropylmethyl-methyl-amino)-piperidine are obtained as a yellowish oil.

reactant | 1-benzyl-4-methylaminopiperidine | 18.9 g | C(C1=CC=CC=C1)N1CCC(CC1)NC | C13H20N2
reactant | cyclopropanecarboxaldehyde | 8.3 g | C1(CC1)C=O | C4H6O
reactant | sodium cyanoborohydride | 11.3 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 250 ml | CO | CH4O
product | 1-benzyl-4-(cyclopropylmethyl-methyl-amino)-piperidine | 22.7 g | C(C1=CC=CC=C1)N1CCC(CC1)N(C)CC1CC1 | C17H26N2
